US08664220B2
Step 1: (5-Benzyl-[1,3,4]oxadiazol-2-yl)-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-methanol
Prepared according to the procedure described in Example 30, Step 1, using 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carb aldehyde and 2-benzyl-[1,3,4]oxadiazole.

reactant | 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carb aldehyde | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C=O | C11H8BrNO2
reactant | 2-benzyl-[1,3,4]oxadiazole | C(C1=CC=CC=C1)C=1OC=NN1 | C9H8N2O
product | (5-Benzyl-[1,3,4]oxadiazol-2-yl)-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-methanol | C(C1=CC=CC=C1)C1=NN=C(O1)C(O)C=1C(=NOC1C1=CC=C(C=C1)Br)C | C20H16BrN3O3
